US05958931
1.82 g (3.83 mmol) of ethyl (RS)-2-(2,6-dichlorophenyl)-5-(2-methoxyphenyl)-7-methyl-5H-thiazolo[3,2-a]pyrimidine-6-carboxylate were dissolved in 20 ml of methanolic hydrochloric solution (2.6N) while stirring and treated with 100 ml of diethyl ether. After 15 h. the crystals were filtered off. There were obtained 1.55 g (79%) of ethyl (RS)-2-(2,6-dichlorophenyl)-5-(4-methoxyphenyl)-7-methyl-5H-thiazolo[3,2-a]pyrimidine-6-carboxylate hydrochloride as a light yellow solid with m.p. 233° C.

reactant | ethyl (RS)-2-(2,6-dichlorophenyl)-5-(2-methoxyphenyl)-7-methyl-5H-thiazolo[3,2-a]pyrimidine-6-carboxylate | 3.83 mmol, 1.82 g | ClC1=C(C(=CC=C1)Cl)C1=CN2C(=NC(=C(C2C2=C(C=CC=C2)OC)C(=O)OCC)C)S1 | C23H20Cl2N2O3S
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | ethyl (RS)-2-(2,6-dichlorophenyl)-5-(4-methoxyphenyl)-7-methyl-5H-thiazolo[3,2-a]pyrimidine-6-carboxylate hydrochloride | 1.55 g, 79% | Cl.ClC1=C(C(=CC=C1)Cl)C1=CN2C(=NC(=C(C2C2=CC=C(C=C2)OC)C(=O)OCC)C)S1 | InChI=1S/C23H20Cl2N2O3S.ClH/c1-4-30-22(28)19-13(2)26-23-27(21(19)14-8-10-15(29-3)11-9-14)12-18(31-23)20-16(24)6-5-7-17(20)25;/h5-12,21H,4H2,1-3H3;1H
